US06797718B2
1-[2,6,7-Trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]eth-2-yl [(2E)-3-phenylprop-2-enyl]ether (2.9 g, 7.013 mmol) from Part A and ammonium acetate (54 g) were combined in a glass pressure vessel. The vessel was sealed with a teflon screw cap, and the reaction mixture was heated to 150° C. for 45 hours. The reaction was complete, and the resulting reaction solution was cooled with an ice bath, basified to a pH of about 13 with 1N potassium hydroxide, and washed with dichloromethane (4×500 mL). The combined organic portions were washed with water (3×) and brine (3×), dried with magnesium sulfate, filtered, and concentrated under reduced pressure to a white solid. The resulting white solid was slowly passed through a column containing 200 g silica that had been heated with 1% diethyl ether in dichloromethane using 98/2 dichloromethane/methanol. Two crops of product were isolated from the eluted solution, and both were recrystallized from isopropyl alcohol. The resulting white powder was dried under vacuum for 18 hours to provide 0.7479 g of 2,6,7-trimethyl-1-(2-{[(2E)-3-phenylprop-2-enyl]oxy}ethyl)-1H-imidazo[4,5-c]pyridin-4-amine, m.p. 143.7-144.8° C.

reactant | 1-[2,6,7-Trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]eth-2-yl [(2E)-3-phenylprop-2-enyl]ether | 7.013 mmol, 2.9 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCOC\C=C\C1=CC=CC=C1 | C26H27N3O2
reactant | ammonium acetate | 54 g | C(C)(=O)[O-].[NH4+]
reactant | potassium hydroxide | 1N | [OH-].[K+]
product | 2,6,7-trimethyl-1-(2-{[(2E)-3-phenylprop-2-enyl]oxy}ethyl)-1H-imidazo[4,5-c]pyridin-4-amine | 0.7479 g | CC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCOC\C=C\C1=CC=CC=C1 | C20H24N4O
